US07087594B2
In 5.0 mL of ethyl acetate was dissolved 0.99 g of (3R)-1-{2-[2-(1-benzothiophen-3-yl)ethoxy]ethyl}-3-pyrrolidinol, and to the solution was added 1.10 mL of a 3.25 mol/L dried hydrogen chloride-ethyl acetate solution, after which the resulting mixture was stirred at room temperature for 1 hour. Then, the solvent was distilled off under reduced pressure to obtain 1.05 g of (3R)-1-{2-[2-(1-benzothiophen-3-yl)ethoxy]ethyl}-3-pyrrolidinol hydrochloride as a light-yellow oil.

reactant | (3R)-1-{2-[2-(1-benzothiophen-3-yl)ethoxy]ethyl}-3-pyrrolidinol | 0.99 g | S1C=C(C2=C1C=CC=C2)CCOCCN2C[C@@H](CC2)O | C16H21NO2S
reactant | hydrogen chloride-ethyl acetate | 3.25 mol/L | C(C)(=O)OCC.Cl
solvent | ethyl acetate | 5.0 mL | C(C)(=O)OCC | C4H8O2
product | (3R)-1-{2-[2-(1-benzothiophen-3-yl)ethoxy]ethyl}-3-pyrrolidinol hydrochloride | 1.05 g | Cl.S1C=C(C2=C1C=CC=C2)CCOCCN2C[C@@H](CC2)O | InChI=1S/C16H21NO2S.ClH/c18-14-5-7-17(11-14)8-10-19-9-6-13-12-20-16-4-2-1-3-15(13)16;/h1-4,12,14,18H,5-11H2;1H/t14-;/m1./s1
